US05780437
4-[3-(2-methylpropenyl)oxiranyl]pyridine
To a suspension of 1-(3-methyl-but-2-enyl)-tetrahydrothiophenium bromide (381 mg in 5 mL dry tetrahydrofuran) at 0° C. was added 0.31 mL pyridine-4-carboxaldehyde followed by 111 mg sodium hydride and the mixture allowed to warm to room temperature. After 1.5 hours, an additional 0.15 mL pyridine-4-carboxaldehyde was added and after 30 minutes the reaction quenched by the addition of water. The mixture was partitioned between ethyl acetate and water and the organic portion washed with saturated aqueous sodium bicarbonate and dried over sodium sulfate. Purification of the concentrate by flash chromatography on silica gel (hexane:ethyl acetate, 1:2) gave the title compound (138 mg). Step 4C

reactant | 1-(3-methyl-but-2-enyl)-tetrahydrothiophenium bromide | 5 mL, 381 mg | [Br-].CC(=CC[S+]1CCCC1)C
reactant | pyridine-4-carboxaldehyde | 0.31 mL | N1=CC=C(C=C1)C=O | C6H5NO
reactant | sodium hydride | 111 mg | [H-].[Na+]
reactant | pyridine-4-carboxaldehyde | 0.15 mL | N1=CC=C(C=C1)C=O | C6H5NO
product | 4-[3-(2-methylpropenyl)oxiranyl]pyridine | 138 mg | CC(=CC1C(O1)C1=CC=NC=C1)C | C11H13NO
